US06159979
N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]-5-phenylnaphth-1-ylacetamide
The title compound was prepared from 5-bromo-N-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]naphth-1-ylacetamide (E20) and phenylboronic acid using a similar procedure to Example 4 (39%).

reactant | 5-bromo-N-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]naphth-1-ylacetamide | BrC1=C2C=CC=C(C2=CC=C1)CC(=O)NC1=CC(=C(C=C1)OC)N1CCN(CC1)C | C24H26BrN3O2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]-5-phenylnaphth-1-ylacetamide | COC1=C(C=C(C=C1)NC(CC1=CC=CC2=C(C=CC=C12)C1=CC=CC=C1)=O)N1CCN(CC1)C | C30H31N3O2
